US05385897
An example of a mixed anhydride is that of isobutyl chloroformate and pivaloyl chloride and carboxylic-sulfonic mixed anhydrides formed for example with p-toluenesulfonyl chloride. As an example of an activated ester, the ester formed with 2,4-dinitrophenol and the one formed with hydroxybenzothiazole may be mentioned.

reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,4-dinitrophenol | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
product | hydroxybenzothiazole | OC=1SC2=C(N1)C=CC=C2 | C7H5NOS
